US09416135B2
To a solution of ethyl 4-amino-5-iodo-2-(methylthio)benzoate (13.6 g, 40 mmol) in DCM (100 mL) was added Et3N (13.8 mL, 100 mmol), followed by MsCl (7.7 mL, 100 mmol) at 0° C. After addition the mixture was stirred at rt for 2 h. 1N HCl solution (50 mL) was added to the mixture and the aqueous phase was extracted with DCM (1×100 mL). The organic solution was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give ethyl 5-iodo-4-(N-(methylsulfonyl)methylsulfonamido)-2-(methylthio)benzoate. The crude reaction mixture above was dissolved into 100 mL THF. To this solution was added TBAF THF solution (1 M, 100 mL) and the mixture was stirred at rt for 2 h. H2O was added to the mixture and the aqueous phase was extracted with EtOAc (3×100 mL). The combined organic solution was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford ethyl 5-iodo-4-(methylsulfonamido)-2-(methylthio)benzoate. It was used for next step without further purification. For ethyl 5-iodo-4-(N-(methylsulfonyl)methylsulfonamido)-2-(methylthio)benzoate: LC-MS m/z 494 [M+H]+. For ethyl 5-iodo-4-(methylsulfonamido)-2-(methylthio)benzoate: LC-MS m/z 415 [M+H]+.

reactant | ethyl 4-amino-5-iodo-2-(methylthio)benzoate | 40 mmol, 13.6 g | NC1=CC(=C(C(=O)OCC)C=C1I)SC | C10H12INO2S
reactant | Et3N | 100 mmol, 13.8 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 100 mmol, 7.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | ethyl 5-iodo-4-(N-(methylsulfonyl)methylsulfonamido)-2-(methylthio)benzoate | IC=1C(=CC(=C(C(=O)OCC)C1)SC)N(S(=O)(=O)C)S(=O)(=O)C | C12H16INO6S3
